US06063779
2-(2-bromobenzyl)thio-N-(1-tert-butyloxycarbonyl-4-piperidinyl)aniline
To a solution of 2-(2-bromobenzyl)thioaniline (7.55 g) and 1-tert-butyloxycarbonylpiperidin-4-one (6.68 g) in 2-dichloroethane (100 ml) were added acetic acid (30 ml) and sodium triacetoxyborohydride (7.1 g), and the mixture was stirred at a room temperature for 2 hours. Additional amount of sodium triacetoxyborohydride (500 mg) was added, and the mixture was further stirred at a room temperature for 2 hours. The reaction was concentrated under reduced pressure, diluted with ethyl acetate, washed successively with water, a saturated aqueous sodium hydrogen carbonate solution, and water, dried over magnesium sulfate, and the solvent was removed. The residue thus obtained was purified by chromatography on a silica gel column (250 g) to give the title compound as a resinous product (11.2 g, 91%) from the fraction eluted with n-hexane:ethyl acetate=5:1.

reactant | 2-(2-bromobenzyl)thioaniline | 7.55 g | BrC1=C(CSC2=C(N)C=CC=C2)C=CC=C1 | C13H12BrNS
reactant | 1-tert-butyloxycarbonylpiperidin-4-one | 6.68 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 7.1 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 500 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 2-dichloroethane | 100 ml | C(CCl)Cl | C2H4Cl2
product | 2-(2-bromobenzyl)thio-N-(1-tert-butyloxycarbonyl-4-piperidinyl)aniline | BrC1=C(CSC2=C(NC3CCN(CC3)C(=O)OC(C)(C)C)C=CC=C2)C=CC=C1 | C23H29BrN2O2S
